US09079866B2
(2-Bromophenyl)(tert-butyl)sulfane
To a 50 mL round-bottomed flask were added a stirbar, water (3.5 mL) and H2SO4 (5.0 mL, 18 M). The flask was then cooled to approximately −10° Celsius and treated with t-BuOH (0.70 mL, 7.5 mmol) followed by 2-bromo-thiophenol (0.60 mL, 5.0 mmol) (drop-wise over three minutes). The resulting mixture was stirred for 24 hours with gradual warming to rt. The reaction mixture was then added to a separatory funnel containing Et2O and sat. NaHCO3. The layers were mixed thoroughly and then separated. The organic layer was washed with 1 N NaOH, dried over MgSO4, filtered and concentrated to dryness. The resulting residue was subjected to FCC gave the title compound (686 mg, 56%). 1H NMR (500 MHz, DMSO-d6) δ 7.75 (dd, J=7.8, 1.4, 1H), 7.68 (dd, J=7.6, 1.6, 1H), 7.43-7.37 (m, 1H), 7.36-7.29 (m, 1H), 1.28 (s, 9H).

reactant | H2SO4 | 18 M, 5.0 mL | OS(=O)(=O)O | H2O4S
reactant | t-BuOH | 7.5 mmol, 0.70 mL | CC(C)(C)O | C4H10O
reactant | 2-bromo-thiophenol | 5.0 mmol, 0.60 mL | BrC1=C(C=CC=C1)S | C6H5BrS
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | Et2O | CCOCC | C4H10O
solvent | water | 3.5 mL | O | H2O
product | (2-Bromophenyl)(tert-butyl)sulfane | 686 mg, 56% | BrC1=C(C=CC=C1)SC(C)(C)C | C10H13BrS
